US08080542B2
N-(4-benzylphenyl)-2-fluoro-4-formylbenzamide
To a solution of 4-benzylbenzenamine (0.100 g, 0.55 mmol), 2-fluoro-4-formylbenzoic acid (0.092 g, 0.55 mmol), N,N-diethylpropan-2-amine (0.10 ml, 0.65 mmol) in DMF (2.00ml) was added HBTU. The reaction mixture was stirred at room temperature for 1 h. The mixture was diluted with EtOAc, washed with water and dried over MgSO4. The solvent was evaporated and the residue was purified by flash chromatography in a EtOAc/Hexene system to give the title compound. MS (ESI) m/z: Calculated; 333.3: Observed; 332.1. 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 10.05-10.10 (1H, m), 8.31-8.44 (2H, m), 7.80-7.85 (1H, m), 7.67-7.73 (1H, m), 7.56-7.62 (2H, m), 7.15-7.40 (6H, m), 3.99 (2H, s)

reactant | 4-benzylbenzenamine | 0.55 mmol, 0.100 g | C(C1=CC=CC=C1)C1=CC=C(C=C1)N | C13H13N
reactant | 2-fluoro-4-formylbenzoic acid | 0.55 mmol, 0.092 g | FC1=C(C(=O)O)C=CC(=C1)C=O | C8H5FO3
reactant | N,N-diethylpropan-2-amine | 0.65 mmol, 0.10 ml | C(C)N(C(C)C)CC | C7H17N
reactant | HBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2.00ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(4-benzylphenyl)-2-fluoro-4-formylbenzamide | C(C1=CC=CC=C1)C1=CC=C(C=C1)NC(C1=C(C=C(C=C1)C=O)F)=O | C21H16FNO2
